Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Respiratory failure/cardiogenic shock
 
Major Surgical or Invasive Procedure:
s/p ___ ___ mechanical)TVrepair(#32Physio ring)
___ clip,ASD closure ___ at ___ by Dr. ___

___ VA ECMO
___ FEMORAL ARTERIAL ECMO DECANNULATION. CONVERSION TO V-V 
ECMO VIA
RIGHT IJ; LEFT FEMORAL ARTERY CUTDOWNS AND REPAIR; RIGHT COMMON
FEMORAL VEIN CUTDOWN AND REPAIR,  RIGHT LOWER EXTREMITY
FASCIOTOMIES, TRANSESOPHAGEAL ECHOCARDIOGRAM

Bronchoscopy ___
 
History of Present Illness:
Ms ___ is a ___ yo woman
w/known rheumatic heart disease, 1 previous valvuloplasty ___
and 1 attempted valvuloplasty ___, who has had worsening
shortness of breath and orthopnea. She was taken to the OR at 
___
by Dr ___ a MVR/TV repair on ___. Post op she had low
cardiac output and required inotrope support without much
improvement. She was initially extubated on POD 1 and 
reintubated
later that day for respiratory failure. She had worsening ___ 
and
was started on CRRT for volume removal which was limited by
hypotension. She had progressive worsening hypoxia and
hypercarbia and on ___ was transferred to ___ for possible
ecmo.
 
Past Medical History:
Rheumatic heart disease
heart failure with preserved ejection fraction
atrial fibrillation
pulmonary hypertension
mitral regurgitation
Tricuspid regurgitation
s/p MVR/TV repair ___
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Admission physical:
Physical Exam:

Pulse:90s AF Resp:35  O2 sat: 
B/P  Right: 89/67   Left: 
Height: 60"    Weight:70kg

General: Intubated, sedated, paralyzed
Skin: Dry [] intact []
HEENT: pupils 7-8mm, non reactive to light
Neck: did not evaluate due to ETT/CVL 
Chest: Lungs rhoncherous on L, diminished on R
Heart: RRR []  Irregular [x]  Murmur [] grade ______ 
Abdomen: Soft, distended, no bowel sounds
Extremities: cool, mottled, no Doppler ___ pulses
Varicosities: None []
Neuro: non contrast head ct without evidence of CVA or bleed
Pulses:no Doppler pulses ___ as at ___

Discharge physical: 
Care withdrawn, Pronounced Dead by Dr. ___ at 13:02 pm 
___

 
Pertinent Results:
 
Brief Hospital Course:
___ s/p MVR(mechanical)/TV repair at ___ @ ___ post op shock,
___ on CRRT, hypoxia and hypercarbia-transferred to ___ for 
ECMO. Anoxic brain
injury demonstrated on head CT, repeat read unchanged.
Bronchoscopy ___ reveal reaccumulation of pulmonary bleeding, 
received
inhaled TXA. Receiving blood products daily d/t diffuse bleeding 
despite being off Heparin.  

Neurological: Head CT ___ without ICH but evidence of anoxic
injury. Neuro following, Port head CT unchanged.  Dr. ___ and poor prognosis for neuro recovery.  Patient off 
all
sedation since ___ am.
Cardiovascular: Levo/ Vaso to keep MAP>65. On VV ECMO.  Unable 
to float swan, stopped Heparin ___ with INR >4 and bleeding.
Respiratory:  CTs out. Rest setting for ventilation while on VV 
ECMO, pulm
following.  Bronch'd ___ for copious bloody secretions & having
very slow improvement of bilat opacities on CXR. Brief 
diagnostic
bronch today: still w/oozing & rec is to cont inhaled TXA TID.
BAL w/2+PMN's no organisms 
Renal: CVVH for ___.  
Hematology: post-op anemia-transfuse to keep Hct @27. 
  
 
Given poor neurologic recovery prognosis and multi-organ system 
failure, A family meeting was held by Dr. ___ the ICU 
team. The family was in agreement with comfort measures and 
withdrawal of care. Patient expired with her family at the 
bedside and was pronounced dead on ___ at 13:02 by Dr. 
___. Patient's son ___ requested an unlimited 
Autopsy. The organ bank was notified.

 
Medications on Admission:
medication at home:
Medications at home:
vitamin D3 2000units daily, guaifenesin tid prn, cozaar 25 mg
daily, Toprol XL 200mg daily, potassium chloride 20meq daily,
torsemide 40mg daily, warfarin as directed, aspirin 81 mg daily, 

 
Discharge Medications:
none-expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Multi-organ system organ failure
 
Discharge Condition:
expired
 
Discharge Instructions:
none-expired
 
Followup Instructions:
___